US07288543B2
Dibenzofuran-2,8-dicarbonitrile
To a solution of 2,8-Diiodo-dibenzofuran (763 mg, 1.8 mmol) in dry DMF (16 mL) add CuCN (1.1 g, 12.7 mmol), heat the mixture at 160° C. under N2 atmosphere overnight. Cool the mixture at room temperature, add NH4OH and bubble air during 4 hours. Add cool water and extract with EtOAc, dry over Na2SO4. Eliminate the solvent under reduced pressure. Purify by flash chromatography on silica gel (eluent: hexane/EtOAc 3/1) to afford the title compound (25 mg, 6%).

reactant | 2,8-Diiodo-dibenzofuran | 1.8 mmol, 763 mg | IC1=CC2=C(OC3=C2C=C(C=C3)I)C=C1 | C12H6I2O
reactant | CuCN | 12.7 mmol, 1.1 g | C(#N)[Cu]
reactant | NH4OH | [NH4+].[OH-]
reactant | DMF | 16 mL | CN(C)C=O | C3H7NO
product | Dibenzofuran-2,8-dicarbonitrile | 25 mg, 6% | C1=C(C=CC=2OC3=C(C21)C=C(C=C3)C#N)C#N | C14H6N2O
